US04933355
Ethyl 2-piperidinothiazole-4-carboxylate
A mixture comprising 2.1 g of piperidine, 4 g of ethyl 2-chlorothiazole-4-carboxylate, 4.2 g of triethylamine and 20 ml of benzene was refluxed for 12 hours. The reaction mixture was poured into water and extracted with benzene. The extract was washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure.

reactant | piperidine | 2.1 g | N1CCCCC1 | C5H11N
reactant | ethyl 2-chlorothiazole-4-carboxylate | 4 g | ClC=1SC=C(N1)C(=O)OCC | C6H6ClNO2S
reactant | triethylamine | 4.2 g | C(C)N(CC)CC | C6H15N
reactant | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | Ethyl 2-piperidinothiazole-4-carboxylate | N1(CCCCC1)C=1SC=C(N1)C(=O)OCC | C11H16N2O2S
